US04152441
A mixture of 13 g. (0.037 mol) of 1-methoxymethyl-α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol, 100 ml. of glacial acetic acid, 10 ml. of concentrated hydrochloric acid and 10 ml. of water was refluxed for three hours. After cooling, the liquid was distilled off and the residue was dissolved in a small amount of ethanol. The solution was made alkaline with 2 N sodium hydroxide solution and the alcohol was evaporated. The remaining aqueous phase was then extracted with diethyl ether. The extract was dried over sodium sulphate and the ether was distilled off. The residue was crystallised from toluene, the toluenic solution being decolorised with active charcoal. There was obtained α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol. Melting point 151.5°-152.5° C.

reactant | 1-methoxymethyl-α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol | 0.037 mol | COCN1C(=NC=C1)C(O)(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C19H17F3N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol | C1(=CC=CC=C1)C(O)(C=1NC=CN1)C1=CC(=CC=C1)C(F)(F)F | C17H13F3N2O
